US06187393B1
1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane.
1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(Z)-Hex-3-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Hex-4-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[Hex-5-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane.

reactant | 1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C26H38O3
reactant | 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C28H42O3
reactant | 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CCCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C29H44O3
reactant | 1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\C)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C27H40O3
reactant | 1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\CC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C28H42O3
reactant | 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\CCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C30H46O3
reactant | 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\CCCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C31H48O3
reactant | 1-[4-(trans-5-[(Z)-Hex-3-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(C\C=C/CC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C29H44O3
reactant | 1-[4-(trans-5-[(E)-Hex-4-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(CC\C=C\C)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C29H44O3
reactant | 1-[4-(trans-5-[Hex-5-enyloxy]dioxan-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(CCCC=C)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C29H44O3
reactant | 1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\C)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C29H44O3
reactant | 1-[4-(trans-5-[(E)-Pent-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C30H46O3
reactant | 1-[4-(trans-5-[(E)-Hept-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C32H50O3
reactant | 1-[4-(trans-5-[(E)-Oct-2-enyloxy]dioxan-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CCCCC)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C33H52O3
product | 1-[4-(trans-5-[(E)-But-2-enyloxy]dioxan-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\C)O[C@H]1OC[C@@H](OC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C25H36O3
